US06743608B2
(2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Isopropyl (2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate
Isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate buffer, 0.1 M, pH 7) was added followed by α-chymotrypsin type II from bovine pancreas (SIGMA) (2.5 mg in a phosphate buffer. 0.1M, pH 7, 0.5 ml). The reaction mixture was shaken at room temperature and analysed at different times (maximum 28 h). The reaction mixtures were analysed by the gradient HPLC method 1 and by the chiral HPLC method.

reactant | Isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OC(C)C)CC1=CC=C(C=C1)O | C14H20O4
reactant | phosphate | P(=O)([O-])([O-])[O-]
product | (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Isopropyl (2S)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@H](C(=O)OC(C)C)CC1=CC=C(C=C1)O | InChI=1S/C14H20O4.C11H14O4/c1-4-17-13(14(16)18-10(2)3)9-11-5-7-12(15)8-6-11;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,10,13,15H,4,9H2,1-3H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t13-;10-/m01/s1
